US03962307
To a solution of 46 parts of 4-bromo-3-ethylbenzyl chloride and 3 parts of iodine in 300 parts of chloroform is added 16 parts of chlorine. The solution is refluxed in the absence of light for 6 hours, then cooled and extracted with water and dilute sodium bisulfite solution. The organic phase is separated, dried and concentrated. The residue is chromatographed on Florisil or alumina and 4-bromo-2-chloro-5-ethylbenzyl chloride, 4-bromo-2-chloro-3-ethylbenzyl chloride, and a small amount of 4-bromo-3-chloro-5-ethylbenzyl chloride are isolated as three of the fractions.

reactant | 4-bromo-3-ethylbenzyl chloride | BrC1=C(C=C(CCl)C=C1)CC | C9H10BrCl
reactant | iodine | II | I2
reactant | chlorine | ClCl | Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-3-chloro-5-ethylbenzyl chloride | BrC1=C(C=C(CCl)C=C1CC)Cl | C9H9BrCl2
